US04814342
A. N-Boc-N-methyl-L-norleucine
N-methyl-L-Norleucine (1.0 g) (J. Chem. Soc. 1968, p. 930) was dissolved in 11 mL DMF at 0° C. and treated with 2.1 mL triethylamine followed by 1.74 mL di-t-butyl dicarbonate. The mixture was stirred at 0° C. for 4 hours and then allowed to warm to 20° C. overnight. The mixture was concentrated, dissolved in a mixture of aqueous saturated sodium bicarbonate and ethyl acetate. The aqueous layer was separated, washed with ethyl acetate and acidified with HCl in the presence of ethyl acetate. This organic layer was separated and combined with further ethyl acetate extracts of the aqueous layer, dried over magnesium sulfate and concentrated giving 1.17 g of yellow oil.

reactant | N-methyl-L-Norleucine | 1.0 g | CN[C@@H](CCCC)C(=O)O | C7H15NO2
reactant | triethylamine | 2.1 mL | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 1.74 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DMF | 11 mL | CN(C)C=O | C3H7NO
product | N-Boc-N-methyl-L-norleucine | 1.17 g | C(=O)(OC(C)(C)C)N([C@@H](CCCC)C(=O)O)C | C12H23NO4
